US05753679
0.39 g (0.0014 mol) of 4-nitro-2-trifluoroacetamido-benzoic acid was dissolved in 7 ml of dimethylformamide, treated with 0.0855 g (0.0007 mol) of dimethylaminopyridine and cooled to 0°. 0.268 g (0.0014 mol) of 1-benzyl-4-hydroxy-piperidine and 0.295 g (0.00154 mol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride were added and the mixture was stirred at 0° for 2 hrs. Thereafter, the mixture was warmed to room temperature. The mixture was stirred at room temperature for 48 hrs., the solvent was distilled off and the residue was taken up in ethyl acetate and washed with semi-saturated sodium bicarbonate solution. The organic phase was dried over sodium sulfate and concentrated and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:2) as the eluent. 0.28 g (44%) of 1-benzyl-piperidin-4-yl 4-nitro-2-trifluoroacetamido-benzoate was obtained as a yellow oil. MS: me/e=452 (C21H21F3N3O5 +).

reactant | 4-nitro-2-trifluoroacetamido-benzoic acid | 0.0014 mol, 0.39 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C9H5F3N2O5
reactant | dimethylaminopyridine | 0.0007 mol, 0.0855 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-benzyl-4-hydroxy-piperidine | 0.0014 mol, 0.268 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.00154 mol, 0.295 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-piperidin-4-yl 4-nitro-2-trifluoroacetamido-benzoate | 0.28 g, 44% | [N+](=O)([O-])C1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)NC(C(F)(F)F)=O | C21H20F3N3O5
